US03998954
2-Isopropylisoquinoline-1,3 (2H, 4H)-dione
A mixture of homophthalic acid (90 g., 0.5 mole) and isopropylamine (59 g., 1 mole) was heated by an oil bath to 175°-180° C. for 90 minutes. The hot mixture was then poured into 600 ml. of ethanol, treated with carbon black and filtered. The mixture was concentrated to about 300 ml. and slowly cooled to room temperature. 2-Isopropylisoquinoline-1,3 (2H, 4H)-dione precipitated and was collected by filtration, 46 g. (45% yield), m.p. 86°-88° C.

reactant | homophthalic acid | 0.5 mole, 90 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | isopropylamine | 1 mole, 59 g | C(C)(C)N | C3H9N
reactant | carbon black | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 2-Isopropylisoquinoline-1,3 (2H, 4H)-dione | 45% yield | C(C)(C)N1C(C2=CC=CC=C2CC1=O)=O | C12H13NO2
